US06479515B1
4-[[[[1-[(Phenylmethoxy)carbonyl]-2(S)-pyrrolidinyl]carbonyl]amino]methyl]-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester
Working analogously to Example 1, starting from N-[(phenyl-methoxy)carbonyl]-L-proline and 4-(aminomethyl)-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester, the expected product is obtained in the form of a creamy white solid (Yield=99%).

reactant | N-[(phenyl-methoxy)carbonyl]-L-proline | C1(=CC=CC=C1)COC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | 4-(aminomethyl)-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
product | 4-[[[[1-[(Phenylmethoxy)carbonyl]-2(S)-pyrrolidinyl]carbonyl]amino]methyl]-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester | C1(=CC=CC=C1)COC(=O)N1[C@@H](CCC1)C(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C | C24H35N3O5
